US04582916
2,3:4,5-Bis-O-(1-methylethylidene)-β-D-fructopyranose sulfamate
To a cold solution (-4° C.) of 2,3:4,5-di-O-isopropylidene-β-fructopyranose (75 g, 0.29 mol) in DMF (725 ml) was added 50% oily sodium hydride (16.34 g, 0.34 mol as NaH). After stirring for 90 min, sulfamoyl chloride (54.9 g, 0.48 mol) was added and the stirring continued for an additional 3.5 hr at that temperature. The reaction mixture was poured into cold water and extracted with toluene. The organic layer was dried (Na2SO4) and the solvents removed under vacuum to give a syrup which crystallized immediately. Recrystallization from ethylacetate/hexane gave pure 2,3:4,5-bis-O-methylethylidene)-β-D-fructopyranose sulfamate, mp 125°-126° C.

reactant | sodium hydride | 0.34 mol, 16.34 g | [H-].[Na+]
reactant | sulfamoyl chloride | 0.48 mol, 54.9 g | S(N)(=O)(=O)Cl | ClH2NO2S
reactant | water | O | H2O
reactant | β-D-fructopyranose sulfamate | S(N)(O)(=O)=O.OC[C@]1(O)[C@@H](O)[C@H](O)[C@H](O)CO1
solvent | DMF | 725 ml | CN(C)C=O | C3H7NO
product | 2,3:4,5-Bis-O-(1-methylethylidene)-β-D-fructopyranose sulfamate | CC1(O[C@@H]2CO[C@@]3([C@H]([C@@H]2O1)OC(O3)(C)C)COS(=O)(=O)N)C | C12H21NO8S
